US03940395
Seven grams of 4,6-dichloro-2-(3,4-dichlorophenyl)pyrimidine is added in small portions to 25 ml. of N,N-dimethylethylenediamine with slight warming and stirring. The resulting mixture is heated on a steam bath for several minutes then poured into 500 ml. of water. The product thus obtained is recrystallized from n-heptane to afford 4-chloro-2-(3,4-dichlorophenyl)-6-[2-(dimethylamino)ethylamino]-pyrimidine, m.p. 99.5°-102°C.

reactant | 4,6-dichloro-2-(3,4-dichlorophenyl)pyrimidine | Seven grams | ClC1=NC(=NC(=C1)Cl)C1=CC(=C(C=C1)Cl)Cl | C10H4Cl4N2
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
solvent | water | O | H2O
product | 4-chloro-2-(3,4-dichlorophenyl)-6-[2-(dimethylamino)ethylamino]-pyrimidine | ClC1=NC(=NC(=C1)NCCN(C)C)C1=CC(=C(C=C1)Cl)Cl | C14H15Cl3N4
